US04695575
A mixture of 6.5 parts of 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazole, 4.2 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 30 minutes using a water separator. 5.2 Parts of 1-(3-chloropropoxy)-4-fluorobenzene were added at reflux temperature and stirring was continued for 3 hours at this temperature using a water separator. After cooling to room temperature, the salts were filtered off and the filtrate was washed twice with water, dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propanone. The salt was filtered off, washed with 2-propanone and crystallized from methanol. The product was filtered off and dried in vacuo at 80° C., yielding 7 parts (53%) of 2-[[1-[3-(4-fluorophenoxy)propyl]-4-piperidinyl]methyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazole ethanedioate (1:2); mp. 186.7° C. (119).

reactant | 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazole | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCNCC2 | C20H22FN3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 1-(3-chloropropoxy)-4-fluorobenzene | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
solvent | water | O | H2O
product | 2-[[1-[3-(4-fluorophenoxy)propyl]-4-piperidinyl]methyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazole ethanedioate | 53% | C(C(=O)O)(=O)O.FC1=CC=C(OCCCN2CCC(CC2)CC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C1 | InChI=1S/C29H31F2N3O.C2H2O4/c30-24-8-6-23(7-9-24)21-34-28-5-2-1-4-27(28)32-29(34)20-22-14-17-33(18-15-22)16-3-19-35-26-12-10-25(31)11-13-26;3-1(4)2(5)6/h1-2,4-13,22H,3,14-21H2;(H,3,4)(H,5,6)
